US06995157B2
Hydrazine hydrate (8.0 g, 160 mmol) and 19.55 g of 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione in 100 mL of methanol were stirred at room temperature over a weekend, then refluxed for 8 hours. The reaction mixture was cooled and the solids were filtered, washed with methanol and dried to give 9.06 g of white solid 6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one (57% yield).

reactant | Hydrazine hydrate | 160 mmol, 8.0 g | O.NN
reactant | 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione | 19.55 g | ClC1=CC=C(C=C1)C(CN1C(SCC1=O)=O)=O | C11H8ClNO3S
solvent | methanol | 100 mL | CO | CH4O
product | 6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one | 57% yield | ClC1=CC=C(C=C1)C=1CNC(NN1)=O | C9H8ClN3O
